US08461328B2
A solution of racemic cis 3-methoxycarbonylamino-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (2.00 g, 7.35 mmol) in 4 M HCl in dioxane (40 mL) was stirred at ambient temperature for 1 hour then concentrated under vacuum. The resulting residue was azeotroped with DCM to afford 1.7 g (quant.) of racemic cis (4-methyl-piperidin-3-yl)-carbamic acid methyl ester hydrochloride. LCMS (Method I, ESI): RT=0.34 min, m+H=173.4.

reactant | racemic cis 3-methoxycarbonylamino-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 7.35 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C)NC(=O)OC | C13H24N2O4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | racemic cis (4-methyl-piperidin-3-yl)-carbamic acid methyl ester hydrochloride | 1.7 g | Cl.COC(N[C@@H]1CNCC[C@@H]1C)=O | InChI=1S/C8H16N2O2.ClH/c1-6-3-4-9-5-7(6)10-8(11)12-2;/h6-7,9H,3-5H2,1-2H3,(H,10,11);1H/t6-,7+;/m0./s1
